US05440044
5-{6-[(1E)-(3RS)-3-Hydroxy-1-undecenyl]-2-pyridyl}-4-pentynoic acid
Under the conditions of example 2, 20 mg of 5-{6-[(1E)(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-4-pentynoic acid methyl ester in 1 ml of methanol is saponified with 2 ml of 1 n sodium hydroxide solution and worked up. 11 mg of the title compound is obtained as yellow oil.

reactant | 5-{6-[(1E)(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-4-pentynoic acid methyl ester | 20 mg | COC(CCC#CC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)=O | C22H31NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 5-{6-[(1E)-(3RS)-3-Hydroxy-1-undecenyl]-2-pyridyl}-4-pentynoic acid | 11 mg | OC(/C=C/C1=CC=CC(=N1)C#CCCC(=O)O)CCCCCCCC | C21H29NO3
